US08629147B2
4-Amino-N-{4-[2-(7-ethyl-2,7-diaza-spiro[4.4]non-2-yl)-ethyl]-phenyl}-3-nitro-benzamide from above was dissolved in ethanol (25 ml) and 1N HCl (6 ml) to which was added 20% Pd(OH)2 and the mixture hydrogenated overnight under an atmosphere of hydrogen gas. The reaction was then filtered thru Celite and the filtrate evaporated to afford crude 3,4-Diamino-N-{4-[2-(7-ethyl-2,7-diaza-spiro[4.4]non-2-yl)-ethyl]-phenyl}-benzamide (1.18 g, 4×HCl salt) as a tan foam which was used as is in the next step.

reactant | 4-Amino-N-{4-[2-(7-ethyl-2,7-diaza-spiro[4.4]non-2-yl)-ethyl]-phenyl}-3-nitro-benzamide | NC1=C(C=C(C(=O)NC2=CC=C(C=C2)CCN2CC3(CC2)CN(CC3)CC)C=C1)[N+](=O)[O-] | C24H31N5O3
reactant | HCl | 1N, 6 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | 3,4-Diamino-N-{4-[2-(7-ethyl-2,7-diaza-spiro[4.4]non-2-yl)-ethyl]-phenyl}-benzamide | 1.18 g | NC=1C=C(C(=O)NC2=CC=C(C=C2)CCN2CC3(CC2)CN(CC3)CC)C=CC1N | C24H33N5O
